US07960409B2
Step 2: 7-(bromomethyl)-2-chloro-4-(4-fluorophenyl)quinoline
A solution of 2-chloro-4-(4-fluorophenyl)-7-methylquinoline (2.0 g, 7.4 mmol), N-bromo-succinimide (1.57 g, 8.8 mmol) and AIBN (30 mg, 0.18 mmol) in CCl4 (40 mL) was refluxed for 16 h. The solution was then cooled to rt, filtered and concentrated. Purification on silica gel (eluting with dichloromethane/hexanes, 1:1) gave the title compound. MS (+ESI): 351 (M+H)+.

reactant | 2-chloro-4-(4-fluorophenyl)-7-methylquinoline | 7.4 mmol, 2.0 g | ClC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)C | C16H11ClFN
reactant | N-bromo-succinimide | 8.8 mmol, 1.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.18 mmol, 30 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-(bromomethyl)-2-chloro-4-(4-fluorophenyl)quinoline | BrCC1=CC=C2C(=CC(=NC2=C1)Cl)C1=CC=C(C=C1)F | C16H10BrClFN
